### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): impl `Iso.degree_eq` and `Iso.minDegree_eq` and `Iso.maxDegree_eq`

### PR DESCRIPTION
**Pull request by mitchell-horner**
Move `Iso.card_edgeFinset_eq` further down in Finite.lean and implement:
- `Iso.degree_eq`
- `Iso.minDegree_eq`
- `Iso.maxDegree_eq`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 1]
```diff
@@ -494,6 +482,57 @@ theorem card_commonNeighbors_top [DecidableEq V] {v w : V} (h : v ≠ w) :
...
+theorem card_edgeFinset_eq (f : G ≃g G') [Fintype G.edgeSet] [Fintype G'.edgeSet] :
+    #G.edgeFinset = #G'.edgeFinset := by
+  apply Finset.card_eq_of_equiv
+  simp only [Set.mem_toFinset]
+  exact f.mapEdgeSet
+
+theorem degree_eq (f : G ≃g G') (x : V) [Fintype ↑(G.neighborSet x)]
+    [Fintype ↑(G'.neighborSet (f x))] : G.degree x = G'.degree (f x) := by
+  simp_rw [← card_neighborSet_eq_degree]
+  convert Fintype.ofEquiv_card (Iso.mapNeighborSet f x).symm
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean]: The reason you need the `convert` is because you're using `Fintype.ofEquiv_card` iinstead of `Fintype.card_congr`. Also, if you swap the LHS and RHS then this becomes a useful `simp` lemma. Combining these and applying some style tweaks, I suggest the following:
```suggestion
@[simp] theorem degree_eq (f : G ≃g G') (x : V)
    [Fintype (G.neighborSet x)] [Fintype (G'.neighborSet (f x))] :
    G'.degree (f x) = G.degree x := by
  rw [← card_neighborSet_eq_degree, ← card_neighborSet_eq_degree,
    ← Fintype.card_congr (Iso.mapNeighborSet f x).symm]
```

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 2]
```diff
@@ -494,6 +482,57 @@ theorem card_commonNeighbors_top [DecidableEq V] {v w : V} (h : v ≠ w) :
...
+    rcases lt_trichotomy G.minDegree G'.minDegree with h | h | h
+    · obtain ⟨x, hx⟩ := exists_minimal_degree_vertex G
+      rw [hx, Iso.degree_eq f x] at h
+      contrapose! h
+      exact minDegree_le_degree G' (f x)
+    · exact h
+    · obtain ⟨x', hx'⟩ := exists_minimal_degree_vertex G'
+      rw [hx', Iso.degree_eq f.symm x'] at h
+      contrapose! h
+      exact minDegree_le_degree G (f.symm x')
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean]: Assuming you swap the LHS and RHS of `degree_eq` as suggested above, this golfs to:
```suggestion
  · simp [f.symm.isEmpty]
  · have : Nonempty W := f.symm.nonempty
    apply le_antisymm
    · obtain ⟨x', hx'⟩ := exists_minimal_degree_vertex G'
      simpa only [hx', ← degree_eq f.symm x'] using minDegree_le_degree G (f.symm x')
    · obtain ⟨x, hx⟩ := exists_minimal_degree_vertex G
      simpa only [hx, ← degree_eq f x] using minDegree_le_degree G' (f x)
```

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 3]
```diff
@@ -494,6 +482,57 @@ theorem card_commonNeighbors_top [DecidableEq V] {v w : V} (h : v ≠ w) :
...
+    rcases lt_trichotomy G.maxDegree G'.maxDegree with h | h | h
+    · obtain ⟨x', hx'⟩ := exists_maximal_degree_vertex G'
+      rw [hx', Iso.degree_eq f.symm x'] at h
+      contrapose! h
+      exact degree_le_maxDegree G (f.symm x')
+    · exact h
+    · obtain ⟨x, hx⟩ := exists_maximal_degree_vertex G
+      rw [hx, Iso.degree_eq f x] at h
+      contrapose! h
+      exact degree_le_maxDegree G' (f x)
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean]: Similarly here:
```suggestion
  · simp [f.symm.isEmpty]
  · have : Nonempty W := f.symm.nonempty
    apply le_antisymm
    · obtain ⟨x, hx⟩ := exists_maximal_degree_vertex G
      simpa only [hx, ← degree_eq f x] using degree_le_maxDegree G' (f x)
    · obtain ⟨x', hx'⟩ := exists_maximal_degree_vertex G'
      simpa only [hx', ← degree_eq f.symm x'] using degree_le_maxDegree G (f.symm x')
```

**Review by ocfnash — APPROVED** [review]
Please apply the suggestions and then feel free to merge!

bors d+
